US08017610B2
(124a) 5-Chloro-N-methylpyrazine-2-carboxamide
5-Chloropyrazine-2-carboxylic acid (1.99 g, 12.6 mmol) was dissolved in N,N-dimethylformamide (10 mL), and HOBt.H2O (591 mg, 3.86 mmol), WSCI•HCl (1.35 g, 7.02 mmol), N-methylmorpholine (2.76 mL, 25.1 mmol) and 40% methylamine/methanol solution (2.92 mL, 37.6 mmol) were added, followed by stirring for 18 hours. To the reaction solution, water (50 mL) was added, and extraction was carried out twice with ethyl acetate (50 mL). The organic layer was washed with saturated brine, and subsequently dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure, and the resulting residue was purified using silica gel column chromatography (elution solvent: ethyl acetate/hexane=0%-75%) to afford the desired compound (585 mg, yield 27%) as a white solid.

reactant | 5-Chloropyrazine-2-carboxylic acid | 12.6 mmol, 1.99 g | ClC=1N=CC(=NC1)C(=O)O | C5H3ClN2O2
reactant | HOBt | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | WSCI•HCl | 7.02 mmol, 1.35 g | CCN=C=NCCCN(C)C.Cl
reactant | N-methylmorpholine | 25.1 mmol, 2.76 mL | CN1CCOCC1 | C5H11NO
reactant | methylamine methanol | 37.6 mmol, 2.92 mL | CN.CO
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | water | 50 mL | O | H2O
solvent | H2O | 3.86 mmol, 591 mg | O | H2O
product | 5-Chloro-N-methylpyrazine-2-carboxamide | 585 mg, yield 27% | ClC=1N=CC(=NC1)C(=O)NC | C6H6ClN3O
